US04242344
Step B: Preparation of 3-chloro-8-(1-piperazinyl)imidazo[1,2-a]pyrazine
Employing the procedure substantially as described in Example 2, Step B, but substituting for the starting material used therein an equimolecular amount of each of 3,6-dichloroimidazo[1,2-a]pyrazine and 8-bromo-3,6-dichloroimidazo[1,2-a]pyrazine, there is produced respectively: 3-chloro-6-(1-piperazinyl)imidazo[1,2-a]pyrazine. HCl.1/2 H2O (m.p. >300° C.); and 3,6-dichloro-8-(1-piperazinyl)imidazo[1,2-a]pyrazine.HCl (m.p. >350° C.).

reactant | 3,6-dichloro-8-(1-piperazinyl)imidazo[1,2-a]pyrazine | ClC1=CN=C2N1C=C(N=C2N2CCNCC2)Cl | C10H11Cl2N5
reactant | HCl | Cl | ClH
solvent | H2O | O | H2O
product | 3-chloro-8-(1-piperazinyl)imidazo[1,2-a]pyrazine | ClC1=CN=C2N1C=CN=C2N2CCNCC2 | C10H12ClN5
